### PR TITLE
[Merged by Bors] - feat: Add `measurable_abs`

### PR DESCRIPTION
**Pull request by xroblot**
See [Zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/measurable_abs/near/417230631)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by YaelDillies** [comment]
Mind doing `posPart` and `negPart` while you're at it?

**Comment by xroblot** [comment]
> Mind doing `posPart` and `negPart` while you're at it?

Sure.

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 1]
```diff
@@ -0,0 +1,33 @@
...
+variable {R : Type*} [Lattice R] [Group R] [MeasurableSpace R] [MeasurableSup₂ R]
+
+@[to_additive (attr := measurability)]
+theorem measurable_oneLePart : Measurable fun x : R ↦ oneLePart x := by
+  refine Measurable.sup measurable_id' measurable_const
+
+variable [MeasurableInv R]
+
+@[to_additive (attr := measurability)]
+theorem measurable_mabs : Measurable fun x : R ↦ mabs x :=
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:28]: Could you also add three lemmas of that form (also with the measurability attribute):
`lemma measurable.abs {f : α → β} (hf : Measurable f) : Measurable (fun x ↦ |f x|) := sorry`

It's an immediate consequence of what you proved, but writing `hf.abs` is more convenient than `measurable_abs.comp hf`.

Comment (xroblot) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean:33]: There you go :)

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 2]
```diff
@@ -16,11 +16,16 @@ import Mathlib.MeasureTheory.Order.Lattice
...
 
-variable {R : Type*} [Lattice R] [Group R] [MeasurableSpace R] [MeasurableSup₂ R]
+variable {R S : Type*} [Lattice R] [Group R] [MeasurableSpace R] [MeasurableSup₂ R]
+  [Lattice S] [Group S] [MeasurableSpace S] {f : S → R} (hf : Measurable f)
 
 @[to_additive (attr := measurability)]
-theorem measurable_oneLePart : Measurable fun x : R ↦ oneLePart x := by
-  refine Measurable.sup measurable_id' measurable_const
+theorem measurable_oneLePart : Measurable fun x : R ↦ oneLePart x :=
+  Measurable.sup measurable_id' measurable_const
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:24]: Weaken the assumption to `MeasurableSup R`

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 3]
```diff
@@ -16,11 +16,16 @@ import Mathlib.MeasureTheory.Order.Lattice
 measurable function, group, lattice operation
 -/
 
-variable {R : Type*} [Lattice R] [Group R] [MeasurableSpace R] [MeasurableSup₂ R]
+variable {R S : Type*} [Lattice R] [Group R] [MeasurableSpace R] [MeasurableSup₂ R]
+  [Lattice S] [Group S] [MeasurableSpace S] {f : S → R} (hf : Measurable f)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:20]: Your algebra brain is making you see rings everywhere 😀
```suggestion
variable {α β : Type*} [Lattice α] [Group β] [MeasurableSpace α] [MeasurableSup₂ α]
  [Lattice β] [Group β] [MeasurableSpace β] {f : β → α} (hf : Measurable f)
```

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean:20]: You don't need Lattice or Group structures on `S`/`β`, do you?

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean:20]: That too

Comment (xroblot) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean]: > Your algebra brain is making you see rings everywhere 😀

Indeed. Still `α` needs to be a group so maybe I should call it `G`?

I made the changes. I think we're getting there.

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 4]
```diff
@@ -16,29 +16,31 @@ import Mathlib.MeasureTheory.Order.Lattice
...
+variable {α β : Type*} [Lattice α] [Group α] [MeasurableSpace α] [MeasurableSup α]
+  [MeasurableSpace β] {f : β → α} (hf : Measurable f)
+
+variable [MeasurableSup α]
 
 @[to_additive (attr := measurability)]
-theorem measurable_oneLePart : Measurable fun x : R ↦ oneLePart x :=
-  Measurable.sup measurable_id' measurable_const
+theorem measurable_oneLePart : Measurable fun x : α ↦ oneLePart x :=
+    measurable_sup_const 1
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:26]:
```suggestion
  measurable_sup_const _
```

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 5]
```diff
@@ -16,29 +16,31 @@ import Mathlib.MeasureTheory.Order.Lattice
...
 
 @[to_additive (attr := measurability)]
 theorem Measurable.oneLePart : Measurable fun x ↦ oneLePart (f x) :=
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:29]:
```suggestion
protected theorem Measurable.oneLePart : Measurable fun x ↦ oneLePart (f x) :=
```
and check `Measurable.posPart` is protected as well

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 6]
```diff
@@ -16,29 +16,31 @@ import Mathlib.MeasureTheory.Order.Lattice
...
   Measurable.comp measurable_oneLePart hf
 
-variable [MeasurableInv R]
+variable [MeasurableSup₂ α] [MeasurableInv α]
 
 @[to_additive (attr := measurability)]
-theorem measurable_mabs : Measurable fun x : R ↦ mabs x :=
-  Measurable.sup measurable_id' measurable_inv
+theorem measurable_mabs : Measurable fun x : α ↦ mabs x :=
+    Measurable.sup measurable_id' measurable_inv
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:36]:
```suggestion
    measurable_id'.sup measurable_inv
```

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 7]
```diff
@@ -16,29 +16,31 @@ import Mathlib.MeasureTheory.Order.Lattice
...
 
 @[to_additive (attr := measurability)]
 theorem Measurable.mabs : Measurable fun x ↦ mabs (f x) :=
   Measurable.comp measurable_mabs hf
 
 @[to_additive (attr := measurability)]
-theorem measurable_leOnePart : Measurable fun x : R ↦ leOnePart x :=
+theorem measurable_leOnePart : Measurable fun x : α ↦ leOnePart x :=
   Measurable.sup measurable_inv measurable_const
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:44]: This should be generalised too

Comment (xroblot) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean]: Yes, that's true.

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 8]
```diff
@@ -0,0 +1,50 @@
...
+
+@[to_additive (attr := measurability)]
+protected theorem Measurable.oneLePart : Measurable fun x ↦ oneLePart (f x) :=
+  measurable_oneLePart.comp hf
+
+variable [MeasurableInv α]
+
+@[to_additive (attr := measurability)]
+theorem measurable_leOnePart : Measurable fun x : α ↦ leOnePart x :=
+  (measurable_sup_const _).comp  measurable_inv
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:36]:
```suggestion
  (measurable_sup_const _).comp measurable_inv
```

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 9]
```diff
@@ -0,0 +1,50 @@
...
+
+@[to_additive (attr := measurability)]
+protected theorem Measurable.leOnePart : Measurable fun x ↦ leOnePart (f x) :=
+  measurable_leOnePart.comp  hf
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:40]:
```suggestion
  measurable_leOnePart.comp hf
```

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 10]
```diff
@@ -0,0 +1,50 @@
...
+
+variable [MeasurableSup₂ α]
+
+@[to_additive (attr := measurability)]
+theorem measurable_mabs : Measurable fun x : α ↦ mabs x :=
+  measurable_id'.sup measurable_inv
+
+@[to_additive (attr := measurability)]
+theorem Measurable.mabs : Measurable fun x ↦ mabs (f x) :=
+  measurable_mabs.comp  hf
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:50]:
```suggestion
  measurable_mabs.comp hf
```

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 11]
```diff
@@ -0,0 +1,50 @@
...
+measurable function, group, lattice operation
+-/
+
+variable {α β : Type*} [Lattice α] [Group α] [MeasurableSpace α]
+  [MeasurableSpace β] {f : β → α} (hf : Measurable f)
+
+variable [MeasurableSup α]
+
+@[to_additive (attr := measurability)]
+theorem measurable_oneLePart : Measurable fun x : α ↦ oneLePart x :=
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:25]: Can you eta-reduce the statement?

Comment (xroblot) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean]: I reduced all the statements.

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 12]
```diff
@@ -22,29 +22,29 @@ variable {α β : Type*} [Lattice α] [Group α] [MeasurableSpace α]
...
 variable [MeasurableInv α]
 
 @[to_additive (attr := measurability)]
-theorem measurable_leOnePart : Measurable fun x : α ↦ leOnePart x :=
+theorem measurable_leOnePart : Measurable (leOnePart : α → α) :=
   (measurable_sup_const _).comp measurable_inv
 
 @[to_additive (attr := measurability)]
-protected theorem Measurable.leOnePart : Measurable fun x ↦ leOnePart (f x) :=
+protected theorem Measurable.leOnePart : Measurable (leOnePart ∘ f) :=
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:39]: I think the eta-expanded version is better for those composition lemmas.

Comment (xroblot) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean]: You have very specific taste ;)
Ok, I've changed these back.

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 13]
```diff
@@ -0,0 +1,50 @@
...
+  measurable_oneLePart.comp hf
+
+variable [MeasurableInv α]
+
+@[to_additive (attr := measurability)]
+theorem measurable_leOnePart : Measurable (leOnePart : α → α) :=
+  (measurable_sup_const _).comp measurable_inv
+
+@[to_additive (attr := measurability)]
+protected theorem Measurable.leOnePart : Measurable (fun x ↦ leOnePart (f x)) :=
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:39]: I don't know if your know, but this is legal:
```suggestion
protected theorem Measurable.leOnePart : Measurable fun x ↦ leOnePart (f x) :=
```

Comment (xroblot) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean]: Yes, but I find it confusing sometimes. I guess it's fine here.

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean (hunk 12 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean]: @fpvandoorn wrote a note (about continuity, but the same applies to measurability) in which he explained why `Measurable fun x ↦ leOnePart (f x)` is better than `Measurable (leOnePart ∘ f)` for that type of lemma. https://leanprover-community.github.io/mathlib_docs/notes.html#continuity%20lemma%20statement
It is likely specific to Lean 3 and now obsolete since the continuity and measurability tactics use aesop, but I'm not sure. 

In applications of that lemma, I expect the goal to have the form `Measurable fun x ↦ leOnePart (f x)`  more often that the other. Also the thread https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Aesop.20and.20Lambdas make me think that we might just need both versions.

@YaelDillies can you tell why you think `Measurable (leOnePart ∘ f)` is better?

Comment (xroblot) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean]: > @fpvandoorn wrote a note (about continuity, but the same applies to measurability) in which he explained why `Measurable fun x ↦ leOnePart (f x)` is better than `Measurable (leOnePart ∘ f)` for that type of lemma. https://leanprover-community.github.io/mathlib_docs/notes.html#continuity%20lemma%20statement It is likely specific to Lean 3 and now obsolete since the continuity and measurability tactics use aesop, but I'm not sure.

I see. Thanks for the link. 

> In applications of that lemma, I expect the goal to have the form `Measurable fun x ↦ leOnePart (f x)` more often that the other. Also the thread https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Aesop.20and.20Lambdas make me think that we might just need both versions.

I can add the other spelling as primed version is you think it's necessary.
 
> @YaelDillies can you tell why you think `Measurable (leOnePart ∘ f)` is better?

No, I think Yaël agrees with you. I was the one that was asking for some justification.

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Order/Group/Lattice.lean]: Oh right, I got confused and switched mentally red and green lines in the diff.
Let's merge that PR as it is now. We'll see if we need other versions of the lemmas as we use them. Given recent discussions on zulip about `fprop`, it's also possible that the tactic we use for measurability changes completely in the near future.

**Comment by RemyDegenne** [comment]
Thanks!
bors r+

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 14]
```diff
@@ -0,0 +1,50 @@
...
+  measurable_leOnePart.comp hf
+
+variable [MeasurableSup₂ α]
+
+@[to_additive (attr := measurability)]
+theorem measurable_mabs : Measurable (mabs : α → α) :=
+  measurable_id'.sup measurable_inv
+
+@[to_additive (attr := measurability)]
+theorem Measurable.mabs : Measurable fun x ↦ mabs (f x) :=
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:49]:
```suggestion
protected theorem Measurable.mabs : Measurable fun x ↦ mabs (f x) :=
```

**Comment by ocfnash** [comment]
bors merge
